US06531502B1
3,5-Dimethyl-4-(2-methoxycarbonylethyl)-1H-pyrrole-2-carboxylic acid ethyl ester (127 g) was dissolved in acetic acid (1900 mL), water (1900 mL) and tetrahydrofuran (1900 mL) and cooled to −30° C. Cerric ammonium nitrate (1097 g) was added in portions with stirring to give a reddish-orange suspension. The suspension was stirred at 0° C. for 2 hours, neutralized to pH 7 with sodium bicarbonate and extracted with ethyl acetate (2000 mL). The ethyl acetate layer was separated, washed with brine (200 mL) and dried over anhydrous sodium sulfate (20 g). The solvent was removed to give 80.2 g (60%) of 5-formyl-4-(2-methoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester as an oil.

reactant | 3,5-Dimethyl-4-(2-methoxycarbonylethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 127 g | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OC)C | C13H19NO4
reactant | water | 1900 mL | O | H2O
reactant | ammonium nitrate | 1097 g | [N+](=O)([O-])[O-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 1900 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 1900 mL | O1CCCC1 | C4H8O
product | 5-formyl-4-(2-methoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 80.2 g, 60% | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OC)C=O | C13H17NO5
